US09371330B2
(4-(((6S)-1-(benzylcarbamoyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl palmitate)
According to particular aspects, synthesis of 44-(46S)-1-(benzylcarbamoyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl palmitate was achieved in analogy with above Example 10 except starting with a solution of (6 S)—N-benzyl-6-(4-hydroxybenzyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide, and reacting with tridecanoyl chloride to obtain the title compound.

reactant | phenyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OC1=CC=CC=C1 | C22H36O2
reactant | (6 S)—N-benzyl-6-(4-hydroxybenzyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide | C(C1=CC=CC=C1)NC(=O)N1C2N(C(CC1)=O)[C@H](C(N(C2)CC2=CC=CC1=CC=CC=C21)=O)CC2=CC=C(C=C2)O | C33H32N4O4
reactant | tridecanoyl chloride | C(CCCCCCCCCCCC)(=O)Cl | C13H25ClO
product | 4-(((6S)-1-(benzylcarbamoyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OC1=CC=C(C=C1)C[C@H]1C(N(CC2N1C(CCN2C(NCC2=CC=CC=C2)=O)=O)CC2=CC=CC1=CC=CC=C21)=O | C49H62N4O5
